US08084448B2
J. 5-(2-Benzyloxy-4-phenethyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-(2-benzyloxy-4-phenethyloxyphenyl)-1 , 1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (47 mg, 0.087 mmol) and tetrabutylammonium fluoride (0.5M in THF, 0.35 mL, 0.175 mmol) in THF (5 mL) is refluxed for 1 h. The mixture is cooled to RT, concentrated, and extracted with EtOAc. The organic phase is washed with 1N HCl and is dried over magnesium sulfate. The solvent is removed under reduced pressure to afford the title compound: (M−1)−=437.

reactant | 5-(2-benzyloxy-4-phenethyloxyphenyl)-1 , 1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.087 mmol, 47 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C28H34N2O5SSi
reactant | tetrabutylammonium fluoride | 0.175 mmol, 0.5M, 0.35 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(2-Benzyloxy-4-phenethyloxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C23H22N2O5S
